US08003796B2
Preparation of (1R,5R)-2,2,2-trifluoroethyl 3-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)-8-azabicyclo[3.2.1]octane-8-carboxylate
Example 112 was prepared according to procedures described in Example 2 substituting (3-exo)-tert-butyl 3-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)-8-azabicyclo[3.2.1]octane-8-carboxylate (Example 25) for tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate at Step A and 2,2,2-trifluoroethanol for 1,1,1-trifluoro-2-propanol at Step B. 1H NMR (500 MHz, CDCl3) δ 8.08 (d, J=8.80 Hz, 2H), 7.61 (d, J=8.80 Hz, 2H), 7.20-7.32 (m, 1H), 6.24 (d, J=2.75 Hz, 1H), 6.09 (dd, J=7.70, 2.75 Hz, 1H), 4.73-4.87 (m, 1H), 4.54-4.67 (m, 1H), 4.39-4.55 (m, 3H), 3.10 (s, 3H), 2.17-2.30 (m, 2H), 2.04-2.19 (m, 2H), 1.68-1.94 (m, 4H). MS (ESI) 501 (M+H).

reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | 1,1,1-trifluoro-2-propanol | FC(C(C)O)(F)F | C3H5F3O
product | (1R,5R)-2,2,2-trifluoroethyl 3-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)-8-azabicyclo[3.2.1]octane-8-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1C[C@H]2CC[C@H](C1)N2C(=O)OCC(F)(F)F)=O | C22H23F3N2O6S
